US07368586B2
Preparation of 2-isopropyl-1-{[dimethoxy-(methyl)silyl]methylcarbamoyl}imidazole
A stirred solution conditioned at a temperature of 50° C. of 3.00 g of 2-isopropylimidazole in 50 ml of ethyl acetate was admixed dropwise with 4.39 g of (isocyanatomethyl)dimethoxy(methyl)silane and the mixture was stirred for 60 min. This gave 2-isopropyl-1-{[dimethoxy(methyl)silyl]-methylcarbamoyl}imidazole after filtration as a colorless solid in quantitative yield with a purity of >95% (analysis by 29Si and 1H NMR).

reactant | 2-isopropylimidazole | 3.00 g | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | (isocyanatomethyl)dimethoxy(methyl)silane | 4.39 g | N(=C=O)C[Si](C)(OC)OC | C5H11NO3Si
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-isopropyl-1-{[dimethoxy-(methyl)silyl]methylcarbamoyl}imidazole | quantitative yield | C(C)(C)C=1N(C=CN1)C(NC[Si](C)(OC)OC)=O | C11H21N3O3Si
